US04316022
Preparation of 4,5-diacetyl-4,5-dihydro-s-triazolo-[3,4-c]benzo-as-triazine
7.0 g (0.04 mole) of 4,5-dihydro-s-triazolo[3,4-c]-benzo-as-triazine are added to a mixture of 35 ml of glacial acetic acid and 35 ml of acetic anhydride, and the reaction mixture is refluxed for 6 hours. At the end of the reaction the mixture is cooled, the product is precipitated with ether and filtered off. 9.4 g of the title compound are obtained; yield: 91%; m.p.: 186°-188° C.

reactant | 4,5-dihydro-s-triazolo[3,4-c]-benzo-as-triazine | 0.04 mole, 7.0 g | C1=NN=C2NNC3=C(N21)C=CC=C3 | C8H7N5
reactant | acetic anhydride | 35 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
product | 4,5-diacetyl-4,5-dihydro-s-triazolo-[3,4-c]benzo-as-triazine | 9.4 g, yield: 91% | C(C)(=O)N1N(C2=C(N3C1=NN=C3)C=CC=C2)C(C)=O | C12H11N5O2
